US08580785B2
e) Preparation of 6-{[2-(3-Chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carbonyl]-amino}-5-methoxy-2-trifluoromethyl-quinoline-7-carboxylic acid methyl amide (T8.1.121)
2-[2-(3-Chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazol-3-yl]-9-methoxy-6-trifluoromethyl-3-oxa-1,5-diaza-anthracen-4-one is reacted with methylamine in THF analogously to the procedure given in step i) of example H-18. The title product is obtained as yellow crystals after flash column chromatography eluting with 1:1 hexane:ethyl acetate. m.p.: 209-211° C.

reactant | 2-[2-(3-Chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazol-3-yl]-9-methoxy-6-trifluoromethyl-3-oxa-1,5-diaza-anthracen-4-one | ClC=1C(=NC=CC1)N1N=C(C=C1C1=NC2=C(C3=CC=C(N=C3C=C2C(O1)=O)C(F)(F)F)OC)C(F)(F)F | C22H10ClF6N5O3
reactant | methylamine | CN | CH5N
solvent | THF | C1CCOC1 | C4H8O
product | 6-{[2-(3-Chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carbonyl]-amino}-5-methoxy-2-trifluoromethyl-quinoline-7-carboxylic acid methyl amide | CNC(=O)C1=C(C(=C2C=CC(=NC2=C1)C(F)(F)F)OC)NC(=O)C=1N(N=C(C1)C(F)(F)F)C1=NC=CC=C1Cl | C23H15ClF6N6O3
